US08859602B2
d) 4-[4-Amino-3-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-tetrahydro-pyran-4-carboxylic acid methyl ester
To a mixture of 4-(4-amino-3-bromo-phenyl)-tetrahydro-pyran-4-carboxylic acid methyl ester (as prepared in the previous step, 1.45 g, 4.61 mmol), 4,4-dimethylcyclohexen-1-ylboronic acid (782 mg, 5.08 mmol) and dichloro(1,1-bisdiphenylphosphino-ferrocene palladium (II) (Pd(dppf)Cl2) dichloromethane adduct (337 mg, 0.461 mmol) in 40 mL of DMF was added K3PO4 (3.91 g, 18.4 mmol). The resulting mixture was stirred at 70° C. for 18 h under Ar. After cooling to RT, the mixture was treated with 150 mL of EtOAc, washed with H2O (3×30 mL) and brine (30 mL). The organic layer was dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (0-2% EtOAc/DCM) to afford 1.14 g (72%) of the title compound as a white solid. Mass spectrum (ESI, m/z): Calcd. for C21H29NO3, 344.2 (M+H). found 344.4.

reactant | 4-(4-amino-3-bromo-phenyl)-tetrahydro-pyran-4-carboxylic acid methyl ester | COC(=O)C1(CCOCC1)C1=CC(=C(C=C1)N)Br | C13H16BrNO3
reactant | 4,4-dimethylcyclohexen-1-ylboronic acid | 5.08 mmol, 782 mg | CC1(CC=C(CC1)B(O)O)C | C8H15BO2
reactant | K3PO4 | 18.4 mmol, 3.91 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 4-[4-Amino-3-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-tetrahydro-pyran-4-carboxylic acid methyl ester | 1.14 g, 72% | COC(=O)C1(CCOCC1)C1=CC(=C(C=C1)N)C1=CCC(CC1)(C)C | C21H29NO3
